US09063126B2
8-methyl-2,3,4,5-tetrahydro-1,4-ethanopyrido[3,2-b]indole
2-Iodo-4-methylaniline (2.0 g, 8.58 mmol; prepared as described in J. Org. Chem. 1999, 64, 9650), quinuclidin-3-one hydrochloride (2.36 g, 14.6 mmol; Aldrich), palladium(II) acetate (145 mg, 0.646 mmol; Aldrich), 1,4-diazabicyclo[2.2.2]octane (DABCO; 3.47 g, 30.9 mmol; Aldrich) and magnesium sulfate (1.65 g, 13.7 mmol) were processed as described in Example 205A to provide the title compound: 1H NMR (500 MHz, methanol-d4) δ ppm 1.52-1.62 (m, 2H), 1.92-2.05 (m, 2H), 2.39 (s, 3H), 2.55-2.69 (m, 2H), 3.22-3.29 (m, 2H), 3.40 (quintet, J=2.9 Hz, 1H), 6.85 (dd, J=8.2, 1.5 Hz, 1H), 7.21 (d, J=8.2 Hz, 1H), 7.34 (s, 1H); MS (APCI) m/z 213 (M+H)+.

reactant | 2-Iodo-4-methylaniline | 8.58 mmol, 2.0 g | IC1=C(N)C=CC(=C1)C | C7H8IN
reactant | quinuclidin-3-one hydrochloride | 14.6 mmol, 2.36 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 1,4-diazabicyclo[2.2.2]octane | 30.9 mmol, 3.47 g | N12CCN(CC1)CC2 | C6H12N2
reactant | magnesium sulfate | 13.7 mmol, 1.65 g | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | palladium(II) acetate | 0.646 mmol, 145 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 8-methyl-2,3,4,5-tetrahydro-1,4-ethanopyrido[3,2-b]indole | CC1=CC=2C3=C(NC2C=C1)C1CCN3CC1 | C14H16N2
